US05034395
7.8 Grams of 4[Z)-(1-ethoxyethoxy)cinnamyl acetate and 50 ml of methanol solution containing 5 g of potassium carbonate were stirred at a room temperature for 2 hours. The solvent was removed by evaporation, and to the residue thus obtained was added water and extracted with ether. The ether extract was washed with water, dried and the solvent remove by evaporation to yield 4(Z)-(1-ethoxyethoxy)cinnamyl alcohol.

reactant | 4[Z)-(1-ethoxyethoxy)cinnamyl acetate | C(C)(=O)OC\C=C/C1=CC=C(C=C1)OC(C)OCC | C15H20O4
reactant | methanol | 50 ml | CO | CH4O
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4(Z)-(1-ethoxyethoxy)cinnamyl alcohol | C(C)OC(C)OC1=CC=C(\C=C/CO)C=C1 | C13H18O3
